US07507740B2
(vi) Production of 4-phenoxy-5H-pyrrolo[3,2-d]pyrimidine-6-carbonitrile
4-Phenoxy-5H-pyrrolo[3,2-d]pyrimidine-6-carboxamide (1.67 g) was suspended in phosphorus oxychloride (20 mL), and the suspension was stirred at 70° C. for 3 hrs. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in tetrahydrofuran (25 mL). Water and aqueous ammonia were added to the solution, and the mixture was extracted with a mixed solvent of ethyl acetate/tetrahydrofuran=1/1. The organic layer washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=90:10→67:33) to give the title compound (1.07 g) as a pale-yellow powder.

reactant | 4-Phenoxy-5H-pyrrolo[3,2-d]pyrimidine-6-carboxamide | 1.67 g | O(C1=CC=CC=C1)C=1C2=C(N=CN1)C=C(N2)C(=O)N | C13H10N4O2
solvent | phosphorus oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-phenoxy-5H-pyrrolo[3,2-d]pyrimidine-6-carbonitrile | 1.07 g | O(C1=CC=CC=C1)C=1C2=C(N=CN1)C=C(N2)C#N | C13H8N4O
